US07960409B2
(S)-1,1,1-trifluoro-2-(1-{[4-(4-fluorophenyl)-2-(1-hydroxyethyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)butan-2-ol
To a solution of (S)-1-[4-(4-fluorophenyl)-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)quinolin-2-yl]ethanone (100 mg, 0.21 mmol) in dichloromethane (5 mL) at −78° C. was added diisobutylaluminum hydride (79 μL, 0.44 mmole). The solution was stirred 20 minutes after which a few drops of acetone were added. The reaction was warmed up to rt and sodium sulfate decahydrate (205 mg, 0.63 mmol) was added. After stirring for 30 minutes the mixture was filtered on celite and concentrated. Purification on silica gel (eluting with acetone/dichloromethane, 3:7) gave the title compound. MS (+ESI): 475 (M+H)+.

reactant | (S)-1-[4-(4-fluorophenyl)-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)quinolin-2-yl]ethanone | 0.21 mmol, 100 mg | FC1=CC=C(C=C1)C1=CC(=NC2=CC(=CC=C12)CN1N=NC(=C1)[C@@](CC)(C(F)(F)F)O)C(C)=O | C24H20F4N4O2
reactant | diisobutylaluminum hydride | 0.44 mmole, 79 μL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium sulfate decahydrate | 0.63 mmol, 205 mg | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | acetone | a few drops | CC(=O)C | C3H6O
product | (S)-1,1,1-trifluoro-2-(1-{[4-(4-fluorophenyl)-2-(1-hydroxyethyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)butan-2-ol | FC([C@@](CC)(O)C=1N=NN(C1)CC1=CC=C2C(=CC(=NC2=C1)C(C)O)C1=CC=C(C=C1)F)(F)F | C24H22F4N4O2
